US05726165
Lithium aluminium hydride (0.235 g, 6.2 mMol) was suspended in tetrahydrofuran (25 ml) and cooled to 0° C. 5-Benzyloxy-2-hydroxy benzoic acid methyl ester (2 g, 7.75 mMol) in tetrahydrofuran (10 ml) was added dropwise, via cannula. The mixture was warmed to room temperature and stirred for 20 minutes. The reaction was then cooled to 0° C. and cautiously quenched by the addition of water (0.5 ml), 2M sodium hydroxide solution (0.5 ml), and water (1 ml). The resulting mixture was stirred at room temperature for 30 minutes and filtered. The filtrate was evaporated in vacuo to yield 4-benzyloxy-2-hydroxymethyl phenol as a clear oil which was used in the next step without further purification.

reactant | Lithium aluminium hydride | 6.2 mMol, 0.235 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 5-Benzyloxy-2-hydroxy benzoic acid methyl ester | 7.75 mMol, 2 g | COC(C1=C(C=CC(=C1)OCC1=CC=CC=C1)O)=O | C15H14O4
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-benzyloxy-2-hydroxymethyl phenol | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)O)CO | C14H14O3
